US06420567B1
2-Bromo-4,6-dimethylaniline was coupled with phenyl boronic acid under Suzuki conditions to give 2-amino-3,5-dimethylbiphenyl in 68% yield.

reactant | 2-Bromo-4,6-dimethylaniline | BrC1=C(N)C(=CC(=C1)C)C | C8H10BrN
reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2-amino-3,5-dimethylbiphenyl | 68% yield | NC1=C(C=C(C=C1C)C)C1=CC=CC=C1 | C14H15N
